US04948808
(2) Synthesis of 4-hydroxyphenyl 2-(tetrahydropyran-2-yloxy)ethyl sulfide
17.91 g of 2-hydroxyethyl 4-hydroxyphenyl sulfide prepared by the above process (1) was dissolved in 280 ml of tetrahydrofuran. 0.18 g of p-toluenesulfonic acid was added to the solution. A solution of 17.69 g of 3,4-dihydro-2H-pyran in 140 ml of tetrahydrofuran was added dropwise to the mixture under cooling with ice and then the mixture was stirred at room temperature for 4 h. The solvent was distilled off and the residue was extracted with diethyl ether, washed with an aqueous sodium hydrocarbonate solution and dried over anhydrous magnesium sulfate. The resulting solution was filtered and the filtrate was concentrated and subjected to silica gel column chromatography to obtain 15.38 g (yield: 58%) of the intended compound having the following physical properties:

reactant | 2-hydroxyethyl 4-hydroxyphenyl sulfide | 17.91 g | OC1=CC=C(C=C1)SCCO | C8H10O2S
reactant | 3,4-dihydro-2H-pyran | 17.69 g | O1CCCC=C1 | C5H8O
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
catalyst | p-toluenesulfonic acid | 0.18 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-hydroxyphenyl 2-(tetrahydropyran-2-yloxy)ethyl sulfide | 15.38 g, yield: 58% | O1C(CCCC1)OCCSC1=CC=C(C=C1)O | C13H18O3S
